Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][O:11][C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])([H:5])[H:6].[H:1][C:2][C:7]([H:8])([H:9])[C:10][O:11][C:12]([H:13])([H:14])[H:15],5.08895426455
[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:8].[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]\[C:9]([H:10])([H:11])[H:12],4.83757658034
[C:7]([H:8])([H:9])[H:10].[H:1][C:2]=[C:3]([H:4])[O:5][O:6]>>[H:1][C:2]=[C:3]([H:4])[O:5][O:6][C:7]([H:8])([H:9])[H:10],-2.98139152363
[C:4]([H:5])=[C:6]([H:7])[H:8].[H:1][O:2][C:3][C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.65409930798
[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][C@:7]1([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1]/[C:2]([C:3]([H:4])([H:5])[O:6])=[C:7](/[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-0.32262854471
[C:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:3]#[C:4][O:6][C:7]([H:8])([H:9])[H:10].[H:5],3.4596759952900005
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][O:3][C:4][H:5],4.57433957154
[H:1][C:2]#[C:3][C:8]([O:7][C:4][O:5][H:6])([H:9])[H:10]>>[H:1][C:2][C:3]1=[C:4]([O:5][H:6])[O:7][C:8]1([H:9])[H:10],0.435879845241
[H:1][O:2][C:3]1=[C:4]([C:5]([H:6])([H:7])[O:8][H:9])[C:10]1([H:11])[H:12]>>[H:1][O:2][C:3][C:10]([C:4][C:5]([H:6])([H:7])[O:8][H:9])([H:11])[H:12],4.04157142773
[C:4]#[C:5][O:6][C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7][C:8]([H:9])([H:10])[H:11],-7.28512510283
[C:1]#[C:2][H:3]>>[C:1]#[C:2].[H:3],5.604062279219999
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-1.84914685597
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][C:2](=[O:3])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-0.6048162700190001
[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7][H:8],4.05215545618
[O:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[O:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.47288362947
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:10][C:11]([H:12])[H:13],4.9084794651
[H:1][O:2][C:3](=[C:4]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:5]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.13271496897
[H:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8]([H:9])[H:10],4.66367705809
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12],3.5467358139300003
[C:1]=[C:2]([H:3])[C:4](=[O:5])[O:6][C:7]([H:8])[H:9].[H:10]>>[C:1]=[C:2]([H:3])[C:4](=[O:5])[O:6][C:7]([H:8])([H:9])[H:10],-4.46890664495
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8],5.25583813884
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][O:2]/[C:3]=[C:5](/[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:4],4.84835261232
[C:3]([O:4][H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11].[H:1][C:2]>>[H:1][C:2]=[C:3]([O:4][H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],-6.7353791774300005
[C:1][O:2][C:3][C:4][C:5]#[C:6]>>[C:1][O:2][C:3]#[C:4].[C:5]#[C:6],6.567242529990001
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:8]#[C:9][O:10][H:11].[H:7]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][O:10][H:11],-3.2483730757
[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[C:11]([H:12])([H:13])[O:14][H:15].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10],1.1370553063200002
[H:1][C:2]=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:3]>>[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.14928603242
[C:1]#[C:2].[C:3]([H:4])([H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11],-5.34678480775
[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10]>>[C:5][C:6]([H:7])([H:8])[O:9][H:10].[H:1][O:2][C:3]#[C:4],6.65944176284
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:3]([H:4])([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][O:2],2.77592220606
